US06924276B2
Step (e): Preparation of (E)-5-(2,2-difluoro-hex-5-ynoyloxymethylene)-2,4-dioxo-thiazolidine-3-carboxylic Acid 5-chloro-thiophen-2-ylmethyl Ester
To a stirred solution of (E)-5-(2,2-difluoro-hex-5-ynoyloxymethylidenyl)-2,4-thiazolidindione, which may be prepared as described in Step (d) above, in THF is added 2 mol equivalents of a non-nucleophilic base such as one of those described above in Example 17, followed by 1 mol equivalent of phosgene or 0.33 mol equivalents of triphosgene, and the mixture is stirred. After stirring for from 1 minute to about 1 hour, 5-chlorothiophen-2-ylmethyl alcohol is added, and the mixture is stirred. Reaction progress may be followed by TLC or HPLC. When a sufficient amount of the desired product is formed, the reaction is partitioned between ethyl acetate and water. The organic layer is washed with 0.01 M sodium bicarbonate, water, brine, and dried over sodium sulfate. The mixture is rotary evaporated to give (E)-5-(2,2-difluoro-hex-5-ynoyloxymethylene)-2,4-dioxo-thiazolidine-3-carboxylic acid 5-chloro-thiophen-2-ylmethyl ester, which may be purified, if needed or desired, by chromatography on silica gel or crystallization.

reactant | (E)-5-(2,2-difluoro-hex-5-ynoyloxymethylidenyl)-2,4-thiazolidindione | FC(C(=O)O\C=C\1/C(NC(S1)=O)=O)(CCC#C)F | C10H7F2NO4S
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | triphosgene | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 5-chlorothiophen-2-ylmethyl alcohol | ClC1=CC=C(S1)CO | C5H5ClOS
solvent | THF | C1CCOC1 | C4H8O
product | (E)-5-(2,2-difluoro-hex-5-ynoyloxymethylene)-2,4-dioxo-thiazolidine-3-carboxylic Acid 5-chloro-thiophen-2-ylmethyl Ester | ClC1=CC=C(S1)COC(=O)N1C(S/C(/C1=O)=C/OC(C(CCC#C)(F)F)=O)=O | C16H10ClF2NO6S2
